US06352982B1
To a methanol (10 ml) solution of 2-amino-4′-tert-butoxycarbonylaminomethyl-5-chlorobenzophenone (0.9 g) was added sodium borohydride (0.28 g). The mixture was stirred for 30 minutes at room temperature, to which was added acetic acid ethyl ester (100 ml). The mixture was washed with water and dried over anhydrous Na2SO4. The solvent was then distilled off, and the residue was purified by means of a silica gel column chromatography to give the object 2-amino-5-chloro-α-(4-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol (0.85 g) as a colorless oily product.

reactant | methanol | 10 ml | CO | CH4O
reactant | 2-amino-4′-tert-butoxycarbonylaminomethyl-5-chlorobenzophenone | 0.9 g | NC1=C(C(=O)C2=CC=C(C=C2)CNC(=O)OC(C)(C)C)C=C(C=C1)Cl | C19H21ClN2O3
reactant | sodium borohydride | 0.28 g | [BH4-].[Na+]
solvent | acetic acid ethyl ester | 100 ml | C(C)OC(C)=O | C4H8O2
product | 2-amino-5-chloro-α-(4-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol | 0.85 g | NC1=C(C(C2=CC=C(C=C2)CNC(=O)OC(C)(C)C)O)C=C(C=C1)Cl | C19H23ClN2O3
